US07335778B2
A aqueous solution comprising 0.88 liter of water and 184.0 g of sodium hydroxide was dissolved 175.6 g of L-cysteine monohydrochloride monohydrate under ice-cooling, 0.35 liter of a toluene solution containing 313.2 g of phenyl chloroformate was added to the above solution within a range not exceeding 30° C. After stirring the mixture at room temperature for 2 hours, it was allowed to stand and the liquids were separated. The aqueous layer was washed with 0.35 liter of toluene, the layers were separated, and the aqueous layer was concentrated to give 139.84 g of (4R)-2-oxothiazolidin-4-carboxylic acid as colorless crystal.

reactant | water | 0.88 liter | O | H2O
reactant | sodium hydroxide | 184.0 g | [OH-].[Na+]
reactant | L-cysteine monohydrochloride monohydrate | 175.6 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | phenyl chloroformate | 313.2 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | toluene | 0.35 liter | C1(=CC=CC=C1)C | C7H8
product | (4R)-2-oxothiazolidin-4-carboxylic acid | 139.84 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
